Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
Abd Pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMH of hypothyroidsm
presenting with umbilical one day of severe abdominal pain, n/v. 


She was in her USOH until yesterday at 4pm when she began to 
have
sharp abdominal pain in a band at the level of the umbilicus. 
She
initially ignored it as she thought it was just from bad food,
but the pain was so severe that she had to leave work, could not
stand or walk, and could not sleep all night due to the pain,
which she rated at "11 of 10". The pain did not improve with any
position. ___ she went to clinic in the AM and was advised to
go to ___, where she had abdominal ultrasound and
CT scans which raised concern for pancreatitis and possible
biliary involvement necessitating transfer. She received 1mg
dilaudid and 4mg Zofran at OSH prior to transfer. While at ___
she vomited x1 but denies diarrhea, nothing that she has not
moved her bowels in about 36 hours. She reports that she drinks
at least 1 drink per night and sometimes 2, noting that
"sometimes I like my drink".  

In ED, initial vitals 98.9 95 126/61 16 100% RA. Exam notable 
for
diffuse tenderness throughout, no rebound or guarding, neg
murphys and mcburneys. CT at OSH notable for enlarged liver,
dilated pancreatic duct and peripancreatic fluid. Labs notable
for K 3.2, Ph 2.3, Lipase 142, T bili 2.2 with D bili 0.3, Plt
133. Received 2mg IV morphine x2, 1L LR, 40mEq KCl. 
Vitals on transfer 99.2 84 102/64 16 100% RA 

On arrival to floor, she reports that she is feeling better
overall and is reassured that she is here. She does continue to
have epigastric and umbilical abdominal pain around ___. 

ROS: Positive as per HPI, all systems reviewed and otherwise
negative

 
Past Medical History:
-Hypothyroidism
 
Social History:
___
Family History:
Mother had uterine cancer but is doing well ___
years after tx. 

 
Physical Exam:
Admission Physical Exam:
VS: 98.3 115/68 86 18 97%RA  
General: Well appearing young woman lying in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Respiratory: CTAB without crackles, wheeze, rhonchi. Good air
movement bilaterally. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, moderate tenderness to palpation
diffusely especially over epigastrium and umbilicus with mild
voluntary guarding and no rebound, mild distension, hypoactive 
BS
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

Discharge PE:
98.4 125 / 57 83 18 98 RA 
Gen: NAD, resting comfortably in bed
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: soft, mild diffuse tenderness worst in epigastrium, no 
rebound or guarding, ND +BS
Ext: no c/c/e
 
Pertinent Results:
Admission labs:

___ 11:40PM   GLUCOSE-103* UREA N-4* CREAT-0.5 SODIUM-136 
POTASSIUM-3.2* CHLORIDE-100 TOTAL CO2-23 ANION GAP-16
___ 11:40PM   estGFR-Using this
___ 11:40PM   ALT(SGPT)-17 AST(SGOT)-20 ALK PHOS-40 TOT 
BILI-2.2* DIR BILI-0.3 INDIR BIL-1.9
___ 11:40PM   LIPASE-142*
___ 11:40PM   ALBUMIN-3.7 CALCIUM-8.0* PHOSPHATE-2.3* 
MAGNESIUM-1.6
___ 11:40PM   NEUTS-72.4* LYMPHS-18.5* MONOS-8.0 EOS-0.5* 
BASOS-0.3 IM ___ AbsNeut-5.71 AbsLymp-1.46 AbsMono-0.63 
AbsEos-0.04 AbsBaso-0.02
___ 11:40PM   PLT COUNT-133*

IMAGING: 
OSH Abd US ___
Prominence of CBD, prominence of biliary duct, Prominent liver,
fluid in the abdomen in the region of ___ pouch and
pericholecystic area

CXR PA/Lat
No acute cardiopulmonary process

CT Abd/pelv with cont
Fatty infiltration of liver, enlarged liver
Dilatation of the pancreatic duct
Peripacreatic fluid
There is fluid medial to the gallbladder that is surrounding fat
and this may represent acute or appearance of ascites
appendigitis. There is ascites around the liver and spleen
extending in the right paracolic gutter to the pelvis. There is
no evidence of appendicitis. 

MRCP ___:
IMPRESSION:  
1.  Mild intrahepatic and extrahepatic biliary dilation without 
evidence of obstructing stone. 
2.  Annular pancreas with mild edema within the pancreatic head 
an associated complex fluid within the right abdomen consistent 
with pancreatitis, similar in appearance to the prior CT.  Mild 
prominence of the main pancreatic duct. 
3.  Hepatic steatosis. 
 
Brief Hospital Course:
___ yo woman with PMH of hypothyroidsm presenting with umbilical
one day of severe abdominal pain, n/v with labs and imaging
raising concern for acute pancreatitis.

#Acute Pancreatitis: Patient presents with one day of bandlike
severe umbilical abdominal pain associated with vomiting. Lipase
elevated to 877 at OSH and remains mildly elevated in 100s, with
OSH CT imaging showing dilation of pancreatic duct and
peripancreatic fluid consistent with acute pancreatitis. Patient
drinks at least 1 alcohol beverage nightly and often more, 
noting
that she is "ashamed" of her alcohol use now and plans to stop.
Patient is not on medications likely to causes
pancreatitis. MRCP showed annular pancreas but no evidence of 
stones.  Discussed with ERCP team who felt that alcohol was most 
likely cause and did not recommend further work-up at this time. 
 Her pain improved rapidly with bowel rest and IV fluids, diet 
advanced to regular low fat diet on day of discharge which she 
tolerated well.  Met with social worker regarding her alcohol 
use.
-Counseled on importance from abstaining from alcohol.
-Tylenol as needed for pain.

#Hypothyroidism: 
-Cont home levothyroxine

#alcohol use disorder: SW consulted, patient reports she will 
abstain from alcohol and continue with AA.

#Dispo: discharge home without services
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 12.5 mcg PO DAILY 
2. Loratadine 10 mg PO DAILY 
3. estradiol-norgestimate 1 mg (15)/1 mg- 0.09 mg (15) oral 
DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  estradiol-norgestimate 1 mg (15)/1 mg- 0.09 mg (15) oral 
DAILY  
3.  Levothyroxine Sodium 12.5 mcg PO DAILY  
4.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pancreatitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted with abdominal pain and were found to have 
pancreatitis.  This improved with bowel rest and IV fluids.  
Most likely this was due to alcohol use and we strongly 
recommend stopping drinking alcohol.  
 
Followup Instructions:
___